* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 22.9
R1 n1 a 2
R2 a nc 3
V2 nc nd DC 33.6
R3 nd ne 3
V3 b ne DC 15.9
V4 nf b DC 10.2
R4 nf 0 5
.op
.print dc V(a) V(b)
.end